Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
lisinopril
 
Attending: ___
 
Chief Complaint:
Right UPJ obstruction
 
Major Surgical or Invasive Procedure:
Cystoscopy,right ureteral stent placement, Laparoscopic assisted 
Robotic Right Pyeloplasty

 
History of Present Illness:
___ year old woman who was recently admitted with right 
pyelonephritis in the setting of a chronically obstructed right 
kidney.  Previous CT in ___ had shown mild 
hydroureteronephrosis, and most recent CT showed severe 
hydronephrosis with obstruction at the right ureteropelvic 
junction.  She had a right percutaneous nephrostomy tube placed
emergently for drainage of the right collecting system.  She
defervesed with IV antibiotic therapy.  She still has the right
PCN in place today.  

I had her obtain a MAG-3 Lasix renogram prior to seeing me 
today.
This showed 20% function in her right kidney with the 
nephrostomy
tube in place.  She presents for counseling regarding the next
best step in management of her right kidney.

ROS:
10-point ROS performed and negative unless mentioned above.

IMAGING (reviewed personally by me):
CTU with contrast on ___:
1. Severe hydronephrosis of the right renal collecting system
without a obstructing stone identified. Delayed nephrogram and
excretion of contrast, subtle blood present peripheral
wedge-shaped hypodensities, and perinephric stranding concerning
for pyelonephritis. 2. Large supraumbilical hernia containing a
loop of nonobstructed transverse colon. 3. Scattered diverticula
without evidence of acute diverticulitis. 

Renal scan on ___:
Renal scan demonstrating differential function of 80% on the 
left
and 20% of the right.

Impression:
Ms. ___ is a ___ year old woman with severe right UPJ
obstruction, right PCN in place, and 20% function in her right
kidney.  The cause of her ureteropelvic junction obstruction is
not known, although I did see the possibility of a crossing
vessel at the level of the UPJ which is the most common cause of
this problem in this age group.  

She will require intervention regarding this issue.  The options
are the following: 

1) Chronic stent/PCN changes: this will need to be done every 
___
months for the remainder of her life in order to keep the kidney
drained.  If not done, she is at risk of recurrent infection and
sepsis.

2) Right nephrectomy: Her kidney is providing only 20% function,
and is unlikely to improve even if drained.  Therefore, in order
to prevent repeat infections, laparoscopic nephrectomy is a
reasonable option.

3) Right pyeloplasty: This is repair of the right collecting
system.  It would entail dismembering the right UPJ and putting
it back together in a more favorable conformation, including
reconfiguration around the crossing vessel if needed.  I would
approach this robotically.  The risks of the surgery itself are
slightly higher than nephrectomy, given that it is more complex. 

Success rates are high, >95%.  However, the benefits are
questionable, given the 20% function of her kidney, which again,
I do not believe will improve with time, since the MAG-3 study
was done with the PCN in place (optimal drainage). 

I am favoring either options 2 or 3, as they are more 
definitive.
Either way, I believe she will require surgery.  Given her
diabetes, renal preservation is certainly reasonable.  She would
like to discuss further with her husband and get back to me
regarding her decision.  I will reach out to her next week as
well. 
 
Past Medical History:
- Type II DM complicated by nephropathy
- Right-sided nephrolithiasis, hydroureteronephrosis ___, 
___
- Dyslipidemia
- Obesity and metabolic syndrome
- H/o Amenorrhea
- H/o ASCUS in ___
- H/o positive PPD s/p treatment with INH
- Umbilical hernia
- Diverticulosis

 
Social History:
___
Family History:
Mother deceased at ___. Father living at age ___ and healthy. Most 
of her ___ medical history is unknown as most relatives live 
in ___. 

 
Physical Exam:
WdWn, female,NAD, AVSS
Interactive, cooperative
Abdomen soft, appropriately tender along incisions
Extremities w/out edema or pitting and there is no reported calf 
pain to deep palpation

 
Pertinent Results:
___ 06:20AM BLOOD WBC-5.6 RBC-3.66* Hgb-9.0* Hct-28.0* 
MCV-77* MCH-24.5* MCHC-31.9 RDW-14.1 Plt ___
___ 06:20AM BLOOD Glucose-154* UreaN-4* Creat-0.4 Na-137 
K-4.2 Cl-99 HCO3-29 AnGap-13
 
Brief Hospital Course:
Patient was admitted to Urology after undergoing robotic right 
pyeloplasty. No concerning intraoperative events occurred; 
please see dictated operative note for details.
The patient received perioperative antibiotic prophylaxis. The 
patient was transferred to the floor from the PACU in stable 
condition. On POD0, pain was well controlled on PCA, hydrated 
for urine output >30cc/hour, and provided with pneumoboots and 
incentive spirometry for prophylaxis. On POD1, the patient 
ambulated, restarted on home medications, basic metabolic panel 
and complete blood count were checked, pain control was 
transitioned from PCA to oral analgesics, diet was advanced to a 
clears/toast and crackers diet. On POD2, urethral Foley catheter 
was removed without difficulty and diet was advanced as 
tolerated. Her JP was then removed. The remainder of the 
hospital course was relatively unremarkable. The patient was 
discharged in stable condition, eating well, ambulating 
independently, voiding without difficulty, and with pain control 
on oral analgesics. On exam, incision was clean, dry, and 
intact, with no evidence of hematoma collection or infection. 
The patient was given explicit instructions to follow-up in 
clinic in approximately four weeks time.

 
Medications on Admission:
Losartan
Metformin
 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg ONE capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0
3. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ONE tablet(s) by mouth Q4hrs Disp #*40 Tablet 
Refills:*0
4. Ibuprofen 600 mg PO Q8H:PRN pain 
RX *ibuprofen 600 mg ONE tablet(s) by mouth Q8hrs Disp #*40 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
RIGHT URETEROPELVIC JUNCTION OBSTRUCTION, HYPOFUNCTIONING RIGHT 
KIDNEY

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please also refer to the provided “handout” that details 
instructions and expectations for your post-operative phase as 
made available by Dr. ___.

-Resume your pre-admission/home medications except as noted. 
ALWAYS call to inform, review and discuss any medication changes 
and your post-operative course with your primary care doctor.

-___ will be discharged home on a three-day course of 
antibiotics

-To reduce the strain/pressure on your abdomen and incision 
sites; remember to “log roll” onto your side and then use your 
hands to push yourself upright while taking advantage of the 
momentum of putting your legs/feet to the ground.

--There may be bandage strips called “steristrips” which have 
been applied to reinforce wound closure. Allow these bandage 
strips to fall off on their own over time but PLEASE REMOVE ANY 
REMAINING GAUZE DRESSINGS WITHIN 2 DAYS OF DISCHARGE. You may 
get the steristrips wet.

-Please AVOID aspirin or aspirin containing products and 
supplements that may have “blood-thinning” effects (like Fish 
Oil, Vitamin E, etc.) unless you have otherwise been advised. 
This will be noted in your medication reconciliation. 

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-Call your Urologist's office to schedule/confirm your follow-up 
appointment in 4 weeks AND if you have any questions.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks or until 
otherwise advised. Light household chores/activity and leisurely 
walking/activity is OK and should be continued. Do NOT be a 
“couch potato”

-Tylenol should be your first-line pain medication. A narcotic 
pain medication has been prescribed for breakthrough pain ___. 
REPLACE the Tylenol with this narcotic pain medication if 
additional pain control is needed..

-Max daily Tylenol (acetaminophen) dose is 4 grams from ALL 
sources, note that narcotic pain medication also contains 
Tylenol

-Do not lift anything heavier than a phone book (10 pounds) or 
drive until you are seen by your Urologist in follow-up ___ 
as directed in the “handout”

-You may shower normally but do NOT immerse your incisions or 
bathe

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool-softener, NOT a laxative

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.
 
Followup Instructions:
___